US07456164B2
1-(1-{4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-ylmethyl}piperidin-4-yl)pyrrolidin-2-one
4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbaldehyde (400 mg, 1.260 mmol), 4-(N-2-pyrrolidinone)piperidine hydrochloride (493 mg, 4.407 mmol), absolute ethanol (16 ml), activated 3 Å molecular sieves (400 mg), titanium (IV) isopropoxide (1.86 ml, 6.30 mmol) and STAB (2.27 g, 10.71 mmol) were reacted in accordance with the general procedure D. The isolated waxy solid was purified by column chromatography on silica eluting with DCM(95):MeOH(4):NH3(1) to give the title compound as a pale yellow oil (133 mg, 22%). 1H NMR (400 MHz, CDCl3) δ7.20 (d, 2H), 6.86 (d, 2H), 4.02 (t, 2H), 3.83-3.71 (m, 3H), 3.52 (dt, 2H), 3.32 (t, 2H), 2.63 (t, 2H), 2.53 (br s, 4H), 2.41-2.30 (m, 6H), 2.18 (dt, 2H), 2.12-1.36 (m, 16H).

reactant | 4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbaldehyde | 1.260 mmol, 400 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C=O | C19H27NO3
reactant | 4-(N-2-pyrrolidinone)piperidine hydrochloride | 4.407 mmol, 493 mg | C1CC(=O)N(C1)C2CCNCC2.Cl
catalyst | titanium (IV) isopropoxide | 6.30 mmol, 1.86 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | ethanol | 16 ml | C(C)O | C2H6O
product | 1-(1-{4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-ylmethyl}piperidin-4-yl)pyrrolidin-2-one | 133 mg, 22% | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN1CCC(CC1)N1C(CCC1)=O | C28H43N3O3
